US07018988B2
(2S,4EZ)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 2, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carboxylic acid, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained after column chromatography as an off-white solid as a mixture of E/Z-isomers. The isomers were separated by column chromatography.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carboxylic acid | O=C1OC(=CC=C1C(=O)O)CCCCC | C11H14O4
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-N-(9-ethyl-9H-carbazol-3-yl)-4-(methoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C=1C(OC(=CC1)CCCCC)=O | C31H34N4O5
